US04766133
3.53 g of 2-[[(3,5-dimethyl-2-pyridyl)methyl]sulphinyl]-5 -(trifluoromethyl)benzimidazole are dissolved in 50 ml of tetrahydrofuran and treated with 0.77 g of cysteamine. 40 ml of 3N hydrochloric acid are added thereto at an internal temperature of 40°. The mixture is stirred at 40° overnight and subseguently evaporated in vacuo. The residue is crystallized from tert.butyl methyl ether/ether. There is obtained 2-[[(2-aminoethyl)dithio]methyl]-3,5-dimethyl-1 -[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium chloride of melting point 115°-120°.

reactant | 2-[[(3,5-dimethyl-2-pyridyl)methyl]sulphinyl]-5 -(trifluoromethyl)benzimidazole | 3.53 g | CC=1C(=NC=C(C1)C)CS(=O)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F | C16H14F3N3OS
reactant | cysteamine | 0.77 g | NCCS | C2H7NS
reactant | hydrochloric acid | 3N, 40 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[[(2-aminoethyl)dithio]methyl]-3,5-dimethyl-1 -[5-(trifluoromethyl)-2-benzimidazolyl]pyridinium chloride | [Cl-].NCCSSCC1=[N+](C=C(C=C1C)C)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F | InChI=1S/C18H20F3N4S2.ClH/c1-11-7-12(2)16(10-27-26-6-5-22)25(9-11)17-23-14-4-3-13(18(19,20)21)8-15(14)24-17;/h3-4,7-9H,5-6,10,22H2,1-2H3,(H,23,24);1H/q+1;/p-1
